US05208250
5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2,4-thiazolidinedione
A mixture of 3,5-di-t-butyl-4-hydroxybenzaldehyde (6.5 g, 27 mmoles), 2,4-thiazolidinedione (3.0 g, 26 mmoles), sodium acetate (7.6 g, 93 mmoles), and acetic acid (40 ml) is stirred under an inert atmosphere and heated to reflux. After 78 hours the mixture is stirred into water (300 ml), and the precipitate is filtered off, rinsed three times with water, dried, and recrystallized from ethanol. The product is stirred in 1N NaOH (50 ml) and extracted several times with dichloromethane. The aqueous solution is acidified with acetic acid, stirred for 1-2 hours, and the precipitate is filtered off, rinsed three times with water and dried to afford the pure product (2.3 g), mp 238°-240° C.

reactant | 3,5-di-t-butyl-4-hydroxybenzaldehyde | 27 mmoles, 6.5 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | 2,4-thiazolidinedione | 26 mmoles, 3.0 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | sodium acetate | 93 mmoles, 7.6 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | water | 300 ml | O | H2O
product | 5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2,4-thiazolidinedione | 2.3 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NC(S1)=O)=O | C18H23NO3S
